US05232923
After dissolving 1.0 g of N-ethyl-homoveratrylamine in a solvent mixture consisting of 6 ml of a 48% aqueous hydrogen bromide solution and 4 ml of acetic acid, the solution was heated at 120°-130° C. with stirring for 5 hours. The solvent was distilled off and the residue was crystallized from ether to obtain 1.2 g of crude crystals. N-Ethyl-3,4-dihydroxyphenethylamine hydrobromide having a melting point of 149°-151° C. was obtained by recrystallizing from isopropyl alcohol. The yield was 0.68 g.

reactant | N-ethyl-homoveratrylamine | 1.0 g | C(C)NCCC1=CC(OC)=C(OC)C=C1 | C12H19NO2
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | N-Ethyl-3,4-dihydroxyphenethylamine hydrobromide | Br.C(C)NCCC1=CC(=C(C=C1)O)O | InChI=1S/C10H15NO2.BrH/c1-2-11-6-5-8-3-4-9(12)10(13)7-8;/h3-4,7,11-13H,2,5-6H2,1H3;1H
